US05202315
Preparation of 1-cyclopropyl-4,6-diamino-2(1H)-pyrimidinethione
N-cyclopropylthiourea (6.2 g) and malononitrile (6.6 g) were reacted in the same method as described in Preparation 12 to give the pale yellow above-indicated compound(3.7 g).

reactant | N-cyclopropylthiourea | 6.2 g | C1(CC1)NC(=S)N | C4H8N2S
reactant | malononitrile | 6.6 g | C(CC#N)#N | C3H2N2
product | 1-cyclopropyl-4,6-diamino-2(1H)-pyrimidinethione | 3.7 g | C1(CC1)N1C(N=C(C=C1N)N)=S | C7H10N4S
